US06451740B2
To a mixture of 2.5 g of an iron powder, 8 ml of acetic acid and 0.8 ml of water was added dropwise a solution of 2.4 g of 2-(3-benzyloxyphenoxy)-5-fluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]nitrobenzene in 6.0 ml of acetic acid, while maintaining the temperature of the reaction solution at 35° C. or lower. After completion of the addition, the mixture was stirred for 2 hours, then, the reaction solution was filtrated through Celite and diluted with ethyl acetate. The mixture was neutralized with saturated aqueous sodium bicarbonate, the organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated, then, the resulted residue was subjected to silica gel column chromatography to obtain 1.5 g of 2-(3-benzyloxyphenoxy)-5-fluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]aniline.

reactant | water | 0.8 ml | O | H2O
reactant | 2-(3-benzyloxyphenoxy)-5-fluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]nitrobenzene | 2.4 g | C(C1=CC=CC=C1)OC=1C=C(OC2=C(C=C(C(=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)[N+](=O)[O-])C=CC1 | C25H17F4N3O6
solvent | acetic acid | 6.0 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 2.5 g | [Fe] | Fe
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 2-(3-benzyloxyphenoxy)-5-fluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]aniline | 1.5 g | C(C1=CC=CC=C1)OC=1C=C(OC2=C(N)C=C(C(=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)C=CC1 | C25H19F4N3O4
